Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
leg weakness, slurred speech
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mr. ___ is a ___ man with hyperlipidemia 
presenting
from ___ with 2 days of slurred speech and left sided
weakness. 

Yesterday, he was with a friend (who is a physician) who noted
that he appeared to have left sided facial droop and slurred
speech.  He did not notice it himself, and says that he mumbles
at baseline.  Today he was in a store with the same friend who
mentioned that he appeared to be dragging his left leg.  He did
notice this and said that his leg felt like it was heavy, and
there was a subtle paresthesia in his left leg that was "not
quite pins and needles". He denies feeling weakness in his left
arm at the time, though when questioned says he feels like he
probably would not be able to lift something heavy with both
arms. 

He presented to ___ where CTA was performed did not show
any large vessel occlusions.  Noncontrast CT showed a small
likely colloidial cyst at the foramen of ___. 

He notes a new intermittent headache for the last few weeks,
occurring on ___ days out of the week that his alternatively
bifrontal or occipital in location, ___ dull intensity, and
not associated with any migrainous symptoms.  He sometimes wakes
up with the headache, but other times it starts spontaneously
during the day.  It usually resolves after a few hours and with
Tylenol or aspirin.  It does not worsen with position or
Valsalva.

He has a history of hyperlipidemia. He was on atorvastatin but
stopped taking it ___ years ago due to muscle pains.  He does not
visit the doctor often, but says his blood pressure has always
been excellent. 

He notes increasing clumsiness over the last several years, 
which
he has attributed to getting older.  He did fall in ___ of last
year, and while landing on his left hand he fractured his left
elbow. 

ROS: 
+ Headache
+ Facial droop, dysarthria, arm and leg weakness
+ Paresthesia in left leg (now resolved)
+ Increasing 
- No confusion, difficulties producing or comprehending speech,
loss of vision, blurred vision, diplopia, dysarthria, dysphagia,
lightheadedness, vertigo, tinnitus or hearing difficulty. No
bowel or bladder incontinence or retention. Denies difficulty
with gait.

 
Past Medical History:
Hyperlipidemia 
Left elbow fracture 

 
Social History:
___
Family History:
Mother had TIA in her ___.  No known history of bleeding or
clotting disorders. 
 
Physical Exam:
ADMISSION EXAM: 

NIHSS Performed within 6 hours of presentation at: ___  
NIHSS Total: 0

PHYSICAL EXAMINATION: 
Vitals: T: 98   HR: 93   BP: 132/86   RR: 16   SaO2:98%
General: Awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx.
Neck: Supple. No nuchal rigidity.
Pulmonary: Normal work of breathing.
Cardiac: RRR on telemetry, warm, well-perfused.
Abdomen: Soft, non-distended.
Extremities: No ___ edema.
Skin: No rashes or lesions noted.
 
Neurologic:
-Mental Status: Alert, oriented x 3. Able to relate history
without difficulty. Attentive, able to name ___ backward without
difficulty. Language is fluent with intact repetition and
comprehension. Normal prosody. There were no paraphasic errors.
Able to name both high and low frequency objects.  Able to read
without difficulty. No dysarthria. Able to follow both midline
and appendicular commands. Able to register 3 objects and recall
___ at 10 minutes. There was no evidence of apraxia or neglect.
Calculation was intact. 

-Cranial Nerves:
II, III, IV, VI:  PERRL 3 to 2mm and brisk. EOMI without
nystagmus. Normal saccades. VFF to confrontation. 
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii bilaterally.
XII: Tongue protrudes in midline with good excursions. Strength
full with tongue-in-cheek testing.

-Motor: Normal bulk and tone throughout. No pronator drift. No
adventitious movements, such as tremor or asterixis noted.
  [___]
L   5     5    4+   4+   4+   5   4+   5    4+  4+   5    5
R   5     5    5    5    4+   5   5    5    5   5    5    5

-Sensory: No deficits to light touch or pinprick througout. No
extinction to DSS. Romberg absent. 

-Reflexes:
  [Bic] [Tri] [___] [Pat] [Ach] [Toes]
L   1            1      2     0     Up
R   1            1      2     0     Up

-Coordination: No intention tremor. Normal finger-tap
bilaterally. No dysmetria on FNF and able to continue with eyes
closed. 

-Gait: Good initiation. Narrow-based, normal stride and arm
swing.  Able to walk in tandem without difficulty. 

DISCHARGE EXAM: 

PHYSICAL EXAMINATION: 
Vitals: T: 97.9  HR: 72   BP: 146/90   RR: 20   SaO2:98%
General: Awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, 
Neck: Supple. No nuchal rigidity.
Pulmonary: Normal work of breathing.
Cardiac: RRR on telemetry, warm, well-perfused.
Abdomen: Soft, obese, non-distended.
Extremities: No ___ edema.
Skin: No rashes or lesions noted.
 
Neurologic:
-Mental Status: Alert, oriented x 3. Able to relate history
without difficulty. Attentive, able to name ___ backward without
difficulty. Language is fluent with intact repetition and
comprehension. Normal prosody. There were no paraphasic errors.
Able to name both high and low frequency objects.  Able to read
without difficulty. No dysarthria. Able to follow both midline
and appendicular commands. Able to register ___ objects at 5 
minutes and ___ objects with prompt. Able to calculate. 
-Cranial Nerves:
II, III, IV, VI:  PERRL 3 to 2mm and brisk. EOMI without
nystagmus. Normal saccades. VFF to confrontation. 
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii bilaterally.
XII: Tongue protrudes in midline with good excursions. Strength
full with tongue-in-cheek testing.

-Motor: Normal bulk and tone throughout. No pronator drift. No
adventitious movements, such as tremor or asterixis noted. No 
bradykinesia or dyskinesia. 
  [___]
L   5     5    4+  5-   5-   5   5    5    5-  5-   5    5
R   5     5    5    5    ___    5    5   5    5    5

-Sensory: No deficits to light touch or pinprick througout. No
extinction to DSS. Romberg absent. 

-Reflexes:
  [Bic] [Tri] [___] [Pat] [Ach] [Toes]
L   1            1      2     0     down
R   1            1      2     0     down
No Palmomental reflex

-Coordination: No intention tremor. Normal finger-tap
bilaterally. No dysmetria on FNF and able to continue with eyes
closed. 

-Gait: Good initiation. Narrow-based, normal stride and arm
swing.  Able to walk in tandem without difficulty. 

 
Pertinent Results:
  
  MR ___ w/o contrast
1. No evidence for an acute infarction. 
2. Incidental note of a 5 mm colloid cyst near the foramen of 
___. 
3. Probable mild chronic small vessel disease. 
4. Additional findings described above. 

___ 12:46AM   %HbA1c-6.3* eAG-134*
___ 10:30PM   GLUCOSE-93 UREA N-20 CREAT-0.9 SODIUM-140 
POTASSIUM-4.7 CHLORIDE-102 TOTAL CO2-23 ANION GAP-15
___ 10:30PM   CHOLEST-284*
___ 10:30PM   TRIGLYCER-527* HDL CHOL-35* CHOL/HDL-8.1 
___
___ 10:30PM   TSH-7.4*
___ 10:30PM   WBC-5.7 RBC-4.67 HGB-14.0 HCT-40.7 MCV-87 
MCH-30.0 MCHC-34.4 RDW-12.7 RDWSD-39.9
___ 10:30PM   NEUTS-39.8 ___ MONOS-11.8 EOS-2.3 
BASOS-0.5 IM ___ AbsNeut-2.25 AbsLymp-2.56 AbsMono-0.67 
AbsEos-0.13 AbsBaso-0.03
___ 10:30PM   PLT COUNT-243
___ 10:30PM BLOOD T3-103 Free T4-1.1
 
Brief Hospital Course:
Mr. ___ is a ___ year old many with hyperlipidemia who 
presented with left leg weakness and dysarthria who was admitted 
to the Neurology stroke service. Fortunately, his symptoms 
improved and by the time that he was examined on rounds, he had 
returned to his baseline. Thus, this is most likely a TIA 
secondary to vascular risk factors. He does have significant 
vascular risk factors and received detailed education about his 
risk factors and what the appropriate treatment for each of his 
risk factors is. His LDL was significantly elevated to 173. We 
started ___ 10 mg for this, considering that he had 
previously proximal muscle pain when he was on a low dose of 
Atorvastatin .  HbA1c 6.3. TSH slightly elevated at 7.4, T3 and 
free T4 were normal. Emphasized the importance of healthy diet, 
daily exercise, preventative health care and routine primary 
care follow up. 

His stroke risk factors include the following: 
 1) DM: A1c 6.3% 
 2) Hyperlipidemia: LDL 173, ___ started
 3) Obesity BMI 32.5
 4) Snoring with suspected sleep apnea

Transitional issues: 
[ ] Hg A1c 6.3%
[ ] PCP to ___ as tolerated, goal LDL <70
[ ] no follow up is needed for incidentally found colloid cyst 
seen on MR brain
[ ] needs sleep study to evaluate for sleep apnea

AHA/ASA Core Measures for Ischemic Stroke and Transient Ischemic 
Attack 
 1. Dysphagia screening before any PO intake? (x) Yes, confirmed 
done - () Not confirmed – () No 
 2. DVT Prophylaxis administered? (x) Yes - () No 
 3. Antithrombotic therapy administered by end of hospital day 
2? () Yes - (x) No 
 4. LDL documented? (x) Yes (LDL = 173 ) - () No 
 5. Intensive statin therapy administered? (simvastatin 80mg, 
simvastatin 80mg/ezetemibe 10mg, atorvastatin 40mg or 80 mg, 
rosuvastatin 20mg or 40mg, for LDL > 100) (x) Yes - () No [if 
LDL if LDL >70, reason not given: 
 [ ] Statin medication allergy 
 [ ] Other reasons documented by physician/advanced practice 
nurse/physician ___ (physician/APN/PA) or pharmacist 
 [ ] LDL-c less than 70 mg/dL] 
 6. Smoking cessation counseling given? () Yes - () No [reason 
(x) non-smoker - () unable to participate] 
 7. Stroke education (personal modifiable risk factors, how to 
activate EMS for stroke, stroke warning signs and symptoms, 
prescribed medications, need for followup) given (verbally or 
written)? (x) Yes - () No 
 8. Assessment for rehabilitation or rehab services considered? 
(x) Yes - () No 
 9. Discharged on statin therapy? (x) Yes - () No [if LDL >70, 
reason not given: 
 [ ] Statin medication allergy 
 [ ] Other reasons documented by physician/advanced practice 
nurse/physician ___ (physician/APN/PA) or pharmacist 
 [ ] LDL-c less than 70 mg/dL 
 10. Discharged on antithrombotic therapy? (x) Yes [Type: (x) 
Antiplatelet - () Anticoagulation] - () No 
 11. Discharged on oral anticoagulation for patients with atrial 
fibrillation/flutter? () Yes - () No - (x) N/A 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Aspirin 81 mg PO DAILY 
2. Multivitamins 1 TAB PO DAILY 

 
Discharge Medications:
1.  Fish Oil (Omega 3) 1000 mg PO BID  
2.  Rosuvastatin Calcium 10 mg PO QPM 
RX *rosuvastatin [___] 10 mg 1 tablet(s) by mouth nightly 
Disp #*30 Tablet Refills:*2 
3.  Aspirin 81 mg PO DAILY  
4.  Multivitamins 1 TAB PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
TIA
Prediabetes
Hyperlipidemia
Obesity

 
Discharge Condition:
Patient was alert and oriented. Stable gait. 

 
Discharge Instructions:
 Dear Mr. ___,
  
 You were hospitalized due to symptoms of left leg weakness 
resulting from a TRANSIENT ISCHEMIC ATTACK, oxygen and nutrients 
temporarily do not get to the brain because the vessel is 
blocked by a clot. The brain is the part of your body that 
controls and directs all the other parts of your body, so damage 
to the brain from being deprived of its blood supply can result 
in a variety of symptoms.  
 Stroke can have many different causes, so we assessed you for 
medical conditions that might raise your risk of having stroke. 
In order to prevent future strokes, we plan to modify those risk 
factors. Your risk factors are:  
 High cholesterol
 snoring with concern for sleep apnea
 Obesity
 Pre-diabetes
 Poor diet with low fiber, high simple sugar intake
 Lack of exercise
 
 We are changing your medications as follows:  
 Start ___ 10 mg nightly
 Start Fish Oil 1000 mg BID

 Please take your other medications as prescribed.  
 Please follow up with your primary care physician as listed 
below.  

 If you experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services (dialing 911). In particular, since stroke can recur, 
please pay attention to the sudden onset and persistence of 
these symptoms:  
 - Sudden partial or complete loss of vision  
 - Sudden loss of the ability to speak words from your mouth  
 - Sudden loss of the ability to understand others speaking to 
you  
 - Sudden weakness of one side of the body  
 - Sudden drooping of one side of the face  
 - Sudden loss of sensation of one side of the body  

 Sincerely,  

 Your ___ Neurology Team  

 
Followup Instructions:
___